US06713471B1
To a solution of 1-bromo-3-chloropropane (700 mg, 4.44 mmol) in DMF (2.4 mL) was added 6-fluoroindole (200 mg, 1.48 mmol) and powder KOH (92 mg, 1.63 mmol) at 20° C. The reaction mixture was stirred for 15 h at 20° C. then quenched by addition of H2O and extracted with Et2O. The combined organic solution was successively washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was chromatographed to give 1-(3-chloropropyl)-6-fluoroindole (190 mg, 66%) as a colorless oil.

reactant | 1-bromo-3-chloropropane | 4.44 mmol, 700 mg | BrCCCCl | C3H6BrCl
reactant | 6-fluoroindole | 1.48 mmol, 200 mg | FC1=CC=C2C=CNC2=C1 | C8H6FN
reactant | KOH | 1.63 mmol, 92 mg | [OH-].[K+]
solvent | DMF | 2.4 mL | CN(C)C=O | C3H7NO
product | 1-(3-chloropropyl)-6-fluoroindole | 190 mg, 66% | ClCCCN1C=CC2=CC=C(C=C12)F | C11H11ClFN
